US08754101B2
Intermediate 27: trans-3-[(Imidazo[1,2-a]pyridin-8-ylmethyl)amino]cyclobutanol
To an emulsion of trans-3-aminocyclobutanol hydrochloride (287 mg, 2.322 mmol) in DCM (5 mL) was added methanol (20 mL), imidazo[1,2-a]pyridine-8-carbaldehyde (340 mg, 2.326 mmol) and diisopropylethylamine (0.446 mL, 2.55 mmol) and the reaction mixture was stirred at room temperature under nitrogen for 10 min. Sodium triacetoxyborohydride (1000 mg, 4.72 mmol) was then added and the reaction mixture was stirred under nitrogen for 2 hours when LCMS indicated the reaction to be complete. The reaction mixture was then concentrated in vacuo and the residue was taken up in DCM (200 mL) and aqueous 2M sodium hydroxide (200 mL) was added and the mixture was stirred at room temperature for 1 hour. The organic layer was separated, washed with water (2×200 mL) and the aqueous phase was back extracted using 3:1 chloroform:isopropanol (2×250 mL). The combined organic layers were dried using a hydrophobic frit and the solvent evaporated in vacuo. The residue was pre-absorbed on florosil and purified on a silica cartridge (100 g) using a 0-25% methanol-dichloromethane gradient over 60 min. The appropriate fractions were combined and evaporated in vacuo to give crude product still containing some borohydride residues. This material was dissolved in aqueous 2M sodium hydroxide (100 mL) and left at room temperature for 5 hours when sodium hydroxide pellets (ca. 0.5 g) was added and the mixture left at room temperature for a further 15 hours. The mixture was then extracted with 3:1 chloroform:isopropanol (2×300 mL) and the organic layer was separated, dried using a hydrophobic frit and the solvent evaporated in vacuo. The residue was dried on a high vacuum line for 2 hours to give the title compound as an orange oil (305 mg).

reactant | trans-3-aminocyclobutanol hydrochloride | 2.322 mmol, 287 mg | Cl.N[C@@H]1C[C@H](C1)O
reactant | imidazo[1,2-a]pyridine-8-carbaldehyde | 2.326 mmol, 340 mg | N=1C=CN2C1C(=CC=C2)C=O | C8H6N2O
reactant | diisopropylethylamine | 2.55 mmol, 0.446 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Sodium triacetoxyborohydride | 4.72 mmol, 1000 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | borohydride | [BH4-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 2M, 100 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | trans-3-[(Imidazo[1,2-a]pyridin-8-ylmethyl)amino]cyclobutanol | 305 mg | N=1C=CN2C1C(=CC=C2)CN[C@@H]2C[C@H](C2)O | C12H15N3O
